US08232409B2
C. 2-Trichloromethyl-5-(2-trifluoromethoxy-phenyl)-1H-benzimidazole
(3-tert-Butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-yl)-carbamic acid tert-butyl ester (573 mg, 1.22 mmol, as prepared in the previous step) was placed in a mL vial equipped with a magnetic stir bar. DCM (10 mL) and TFA (5 mL) were added, and the mixture stirred at rt for 12 h. The solvent was removed under reduced pressure, and the residue was dissolved in DCM and washed with 2M aq NaOH. The organic extract was dried over MgSO4 and concentrated in vacuo. The residue was dissolved in AcOH (5 mL) and placed in an 8 mL vial equipped with a magnetic stir bar. The mixture was cooled to 0° C., treated with methyl-2,2,2-trichloroacetimidate (0.167 mL, 1.35 mmol) via syringe, and stirred at rt for 3 days. The solvent was removed under reduced pressure. The crude product was purified by column chromatography using a 12-g SiO2 pre-packed column eluting with EtOAc/hexanes, 0:1 to 2:5, v/v over 30 min, yielding 409 mg (85%) of the desired compound. 1H-NMR (400 MHz, d4-MeOH) δ: 7.71-7.77 (m, 2H), 7.52-7.57 (m, 1H), 7.39-7.51 (m, 4H).

reactant | (3-tert-Butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)OC(F)(F)F)NC(=O)OC(C)(C)C)=O | C23H27F3N2O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl-2,2,2-trichloroacetimidate | 1.35 mmol, 0.167 mL | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Trichloromethyl-5-(2-trifluoromethoxy-phenyl)-1H-benzimidazole | 409 mg, 85% | ClC(C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)OC(F)(F)F)(Cl)Cl | C15H8Cl3F3N2O
